US07977371B2
2-Amino-5-(4-bromophenyl) pyrrole-3-carboxamide (Reference compound No. 1-1)
Under ice-cooling, sodium ethoxide (2.1 g, 30 mmol) was added to a suspension of malonamamidine hydrochloride (4.1 g, 30 mmol) in dehydrated ethanol (50 mL), and then the mixture was stirred for 20 minutes. Moreover, 2,4′-dibromoacetophenone (4.2 g, 15 mmol) was added thereto, and the whole was stirred at room temperature for 5 hours. After the insoluble solid was filtered out, the filtrate was concentrated in vacuo. The obtained residue was purified by silica gel column chromatography to give the title reference compound (0.37 g) as a black solid (Yield 9%).

reactant | sodium ethoxide | 30 mmol, 2.1 g | [O-]CC.[Na+]
reactant | malonamamidine hydrochloride | 30 mmol, 4.1 g | C(C(=N)N)C(=O)N.Cl
reactant | 2,4′-dibromoacetophenone | 15 mmol, 4.2 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-Amino-5-(4-bromophenyl) pyrrole-3-carboxamide | 0.37 g, Yield 9% | NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)Br | C11H10BrN3O
